US08865704B2
5-Methoxy-1-methyl-3-[trans-4-(piperazine-1-carbonyl)cyclohexyl methyl]-1,3-dihydro-benzoimidazol-2-one
Trifluoro acetic acid (8 ml) was added to a solution of trans-4-[4-(6-Methoxy-3-methyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarbonyl]-piperazine-1-carboxylic acid tert-butyl ester in DCM (19 ml). The solution was stirred at room temperature overnight and then 10 ml of water were added. The mixture was concentrated under reduced pressure and DCM (20 ml) were added. The organic solution was washed with a saturated solution of NaHCO3 (2×20 ml), dried over Na2SO4, filtered and the solvent evaporated to give the titled compound

reactant | Trifluoro acetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trans-4-[4-(6-Methoxy-3-methyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarbonyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(N(C2=C1C=C(C=C2)OC)C)=O | C26H38N4O5
reactant | water | 10 ml | O | H2O
solvent | DCM | 19 ml | C(Cl)Cl | CH2Cl2
product | 5-Methoxy-1-methyl-3-[trans-4-(piperazine-1-carbonyl)cyclohexyl methyl]-1,3-dihydro-benzoimidazol-2-one | COC1=CC2=C(N(C(N2C[C@@H]2CC[C@H](CC2)C(=O)N2CCNCC2)=O)C)C=C1 | C21H30N4O3
